US06800629B2
In a mixture of 14 mL of 12 mol/L hydrochloric acid and 14 mL of tetrahydrofuran was suspended 8.0 g of methyl 3-amino-6-chloro-2-pyrazinecarboxylate. After adding 5.9 g of sodium nitrite at 5-12° C., the mixture thus obtained was stirred at an ice-cooled temperature for 50 minutes. Then, 8.4 g of cuprous (I) chloride suspended in 6 mol/L hydrochloric acid was added and stirred at the same temperature as above for 10 minutes. The reaction mixture was poured into a mixture of 100 mL of ethyl acetate and 100 mL of water, and the organic layer was separated. The organic layer thus obtained was washed successively with 50 mL of water and 50 mL of saturated aqueous solution of sodium chloride and dried on anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by silica gel chromatography [eluent: n-hexane:ethyl acetate=6:1] to obtain 6.0 g of methyl 3,6-dichloro-2-pyrazinecarboxylate as a colorless oily product.

reactant | methyl 3-amino-6-chloro-2-pyrazinecarboxylate | 8.0 g | NC=1C(=NC(=CN1)Cl)C(=O)OC | C6H6ClN3O2
reactant | sodium nitrite | 5.9 g | N(=O)[O-].[Na+]
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
reactant | water | 100 mL | O | H2O
reactant | hydrochloric acid | 12 mol/L, 14 mL | Cl | ClH
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | tetrahydrofuran | 14 mL | O1CCCC1 | C4H8O
product | methyl 3,6-dichloro-2-pyrazinecarboxylate | 6.0 g | ClC=1C(=NC(=CN1)Cl)C(=O)OC | C6H4Cl2N2O2
